US05587474
Dimedone (169 mg) is dissolved in a solution of sodium hydrogen carbonate (169 mg) in water (2 ml) by ultrasonic treatment, and thereto are added dioxane (16 ml), palladium diacetate (23 mg) and triethyl phosphite (0.12 ml) under nitrogen atmosphere, and further added thereto (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester (1.03 g). The mixture is stirred at 30° C. for 30 minutes, and thereto is added diethyl ether (32 ml), and the mixture is stirred at 25° C. for 15 minutes, and further stirred at 5° C. for 30 minutes. The precipitated crystals are collected by filtration, washed with diethyl ether, and dried under reduced pressure at 25° C. for 17 hours to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt (885 mg).

reactant | Dimedone | 169 mg | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | dioxane | 16 ml | O1CCOCC1 | C4H8O2
reactant | triethyl phosphite | 0.12 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester | 1.03 g | C(C=C)OC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)S[C@@H]2CC(NC2)=S | C23H36N2O4S2Si
reactant | sodium hydrogen carbonate | 169 mg | C(O)([O-])=O.[Na+]
solvent | water | 2 ml | O | H2O
catalyst | palladium diacetate | 23 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | diethyl ether | 32 ml | C(C)OCC | C4H10O
product | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid sodium salt | 885 mg | [Na+].N1C(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)=S | InChI=1S/C20H32N2O4S2Si.Na/c1-10-15-14(11(2)26-29(6,7)20(3,4)5)18(23)22(15)16(19(24)25)17(10)28-12-8-13(27)21-9-12;/h10-12,14-15H,8-9H2,1-7H3,(H,21,27)(H,24,25);/q;+1/p-1/t10-,11-,12-,14-,15-;/m1./s1
